US05539102
The condensed sulfamide having a t-butoxycarbonyl protecting group obtained as Sample No. 1 of Example 1 is dissolved in a mixture of dichloromethane (15 vol.) and anisole (15 vol.) under ice cooling, and trifluoroacetic acid (15 vol.) is added thereto. The mixture is stirred for 50 minutes, and for 1 hour after the ice bath is removed. The reaction mixture is concentrated. The residue is recrystallized from a mixture of ether and petroleum ether (1:6) to give benzylsulfamide. Colorless crystals. Yield: 90%.

reactant | sulfamide | S(=O)(=O)(N)N | H4N2O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzylsulfamide | Yield: 90% | C(C1=CC=CC=C1)NS(=O)(=O)N | C7H10N2O2S
